US07282512B2
[1-(4-Pyridinylmethyl)cyclobutyl]methyl(1S)-5-[(4-morpholinylcarbonyl)amino]-1-(oxo{[(1R)-1-phenylethyl]amino}acetyl)pentylcarbamate was prepared as in example 9j except that [1-(4-pyridinylmethyl)cyclobutyl]methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-[(4-morpholinylcarbonyl)amino]pentylcarbamate was substituted for (1-benzylcyclohexyl)methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-[(4-morpholinylcarbonyl)amino]pentylcarbamate. 1H NMR (300 MHz, 80° C., DMSO-d6) δ 8.92 (m, 1 H), 8.49 (m, 2H), 7.20-7.36 (m, 8H), 6.31 (m, 1H), 5.01 (qnt, J=7 Hz, 1H), 4.82 (m, 1H), 3.78 (s, 2H), 3.53 (t, J=5 Hz, 4H), 3.24 (t, J=5 Hz, 4H), 3.01 (m, 2H), 2.80 (s, 2H), 1.83-1.90 (m, 6H), 1.42-1.48 (m, 9H). ES-LCMS m/z 594 (M+H). HRMS C32H43N5O6 m/z 594.3291 (M+H)Cal; 594.3279 (M+Na)Obs.

reactant | [1-(4-pyridinylmethyl)cyclobutyl]methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-[(4-morpholinylcarbonyl)amino]pentylcarbamate | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCCNC(=O)N1CCOCC1)NC(OCC1(CCC1)CC1=CC=NC=C1)=O | C32H45N5O6
reactant | (1-benzylcyclohexyl)methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-[(4-morpholinylcarbonyl)amino]pentylcarbamate | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCCNC(=O)N1CCOCC1)NC(OCC1(CCCCC1)CC1=CC=CC=C1)=O | C35H50N4O6
product | [1-(4-Pyridinylmethyl)cyclobutyl]methyl(1S)-5-[(4-morpholinylcarbonyl)amino]-1-(oxo{[(1R)-1-phenylethyl]amino}acetyl)pentylcarbamate | N1(CCOCC1)C(=O)NCCCC[C@@H](C(C(N[C@H](C)C1=CC=CC=C1)=O)=O)NC(OCC1(CCC1)CC1=CC=NC=C1)=O | C32H43N5O6
